US09163003B2
3-[4-(4-Chloro-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one
A 10 mL microwave vial containing methanesulfonic acid (S)-2-oxo-pyrrolidin-3-yl ester (0.56 mmol, 100 mg) and (4-chloro-phenyl)-piperidin-4-yl-methanone (0.56 mmol, 125 mg) in DIEA (2.8 mmol, 0.5 mL) was heated to 85° C. for 105 min. The diisopropylethylamine was decanted off and flash column chromatography (silica) was performed eluting with ethyl acetate to 20% MeOH/ethyl acetate afforded the title compound (53 mg, 31% yield). MS (ESI) m/e 307.3 (M+H+), calculated 306.2; HPLC (Novapak 150×3.9 mm C18 column: mobile phase: 10-90% acetonitrile/water with 0.1% TFA, at 2 mL/min over 5 min.) retention time=2.506 min.

reactant | methanesulfonic acid (S)-2-oxo-pyrrolidin-3-yl ester | 0.56 mmol, 100 mg | O=C1NCC[C@@H]1OS(=O)(=O)C | C5H9NO4S
reactant | (4-chloro-phenyl)-piperidin-4-yl-methanone | 0.56 mmol, 125 mg | ClC1=CC=C(C=C1)C(=O)C1CCNCC1 | C12H14ClNO
reactant | DIEA | 2.8 mmol, 0.5 mL | CCN(C(C)C)C(C)C | C8H19N
product | 3-[4-(4-Chloro-benzoyl)-piperidin-1-yl]-pyrrolidin-2-one | 53 mg, 31% yield | ClC1=CC=C(C(=O)C2CCN(CC2)C2C(NCC2)=O)C=C1 | C16H19ClN2O2
